US07498440B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-(3-{[4-(methyloxy)phenyl]oxy}propyl)-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0483 g, 0.164 mmol) and 1-[(3-bromopropyl)oxy]-4-(methyloxy)benzene (0.052 g, 0.21 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0687 g, 77.5%). EI-MS m/z 458(M+) Rt (2.03 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.164 mmol, 0.0483 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 1-[(3-bromopropyl)oxy]-4-(methyloxy)benzene | 0.21 mmol, 0.052 g | BrCCCOC1=CC=C(C=C1)OC | C10H13BrO2
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-(3-{[4-(methyloxy)phenyl]oxy}propyl)-1-azoniabicyclo[2.2.2]octane bromide | 0.0687 g, 77.5% | [Br-].OC(C12CC[N+](CC1)(CC2)CCCOC2=CC=C(C=C2)OC)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C30H36NO3.BrH/c1-33-27-13-15-28(16-14-27)34-24-8-20-31-21-17-29(18-22-31,19-23-31)30(32,25-9-4-2-5-10-25)26-11-6-3-7-12-26;/h2-7,9-16,32H,8,17-24H2,1H3;1H/q+1;/p-1
